US04772600
2-(4-Chlorophenyl)-N-[(1-ethyl-2-pyrrolidinyl)methyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:2]
A mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid 5.0 g (0.0174 mole) and 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hrs with a stream of nitrogen bubbling throught it. The 2-(aminoethyl)-1-ethylpyrrolidine (4.46 g, 0.0348 mole) was added dropwise and the reaction mixture was allowed to stir at room temperature overnight.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(aminoethyl)-1-ethylpyrrolidine | 0.0348 mole, 4.46 g | NCCC1N(CCC1)CC | C8H18N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-[(1-ethyl-2-pyrrolidinyl)methyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCC1N(CCC1)CC | InChI=1S/C21H24ClN5O.ClH/c1-2-26-12-4-5-17(26)13-24-19(28)14-27-20(15-7-9-16(22)10-8-15)25-18-6-3-11-23-21(18)27;/h3,6-11,17H,2,4-5,12-14H2,1H3,(H,24,28);1H
